US04018802
Step D. 8-Methylsulfonyl-12-hydroxy-13,13-dimethyl-10-heptadecynoic acid
The synthesis of this compound is carried out by the procedure of Example 3, Step E, except that methyl 8-methylsulfonyl-12-acetoxyheptadecanoate is replaced by an equivalent amount of methyl 8-methylsulfonyl-12-acetoxy-13,13-dimethyl-10-heptadecynoate.

reactant | methyl 8-methylsulfonyl-12-acetoxyheptadecanoate | CS(=O)(=O)C(CCCCCCC(=O)OC)CCCC(CCCCC)OC(C)=O | C21H40O6S
reactant | methyl 8-methylsulfonyl-12-acetoxy-13,13-dimethyl-10-heptadecynoate | CS(=O)(=O)C(CCCCCCC(=O)OC)CC#CC(C(CCCC)(C)C)OC(C)=O | C23H40O6S
product | 8-Methylsulfonyl-12-hydroxy-13,13-dimethyl-10-heptadecynoic acid | CS(=O)(=O)C(CCCCCCC(=O)O)CC#CC(C(CCCC)(C)C)O | C20H36O5S
